US06388134B1
To a solution of 2,39 g (6,55 mmol) N-diethoxyethyl-6-(4-phenylbutoxy)hexylamine in 25 ml acetone is added 1.59 g (7.07 mmol) N-(benzyloxycarbonyloxy)succinimide. After allowing the mixture to stir for 2 hr at room temperature, acetone is removed by evaporation and 30 ml AcOEt are added thereto. The resulting mixture is washed three times with 30 ml H2O. Once separated, the AcoEt phase is dried on anhydrous Na2SO4 and evaporated to dryness, thereby yielding 3.28 g (99%) N-benzyloxycarbonyl-N-diethoxyethyl-6-(phenylbutoxy)hexylamine as an oil.

reactant | N-diethoxyethyl-6-(4-phenylbutoxy)hexylamine | 6,55 mmol, 2,39 g | C(C)OC(CNCCCCCCOCCCCC1=CC=CC=C1)OCC | C22H39NO3
reactant | N-(benzyloxycarbonyloxy)succinimide | 7.07 mmol, 1.59 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | N-benzyloxycarbonyl-N-diethoxyethyl-6-(phenylbutoxy)hexylamine | 3.28 g, 99% | C(C1=CC=CC=C1)OC(=O)N(CC(OCC)OCC)CCCCCCOCCCCC1=CC=CC=C1 | C30H45NO5
